US07358248B2
3-(4′-Benzo[1,3]dioxol-5-yl-biphenyl-4-ylmethylsulfanyl)-2-tert-butoxycarbonyl amino-propionic acid methyl ester
A mixture of 3-(4′-bromobiphenyl-4-ylmethylsulfanyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester, 0.26 g (0.54 mmol), 3,4-methylenedioxyphenylboronic acid, 90 mg (0.54 mmol), Pd(PPh3)4, 63 mg (0.054 mmol), in 5 mL of toluene and 3 mL of ethanol was heated to obtain a clear solution. To the solution was added 5 mL of 0.4M aq. Na2CO3. The reaction mixture refluxed for 4 h at 80° C. The mixture was cooled to room temperature and diluted with 100 mL ethyl acetate. The organic layer was washed with 2×50 mL portions of water, 2×50 mL portions of sat. aq. NaCl, and dried (MgSO4). After the solution was concentrated, the residue was purified by column chromatography (eluted with 7% EtOAc-Heptane) to afford the desired product in 0.13 g (46%) as a white solid. 1H NMR (CDCl3) 7.64-7.56 (m, 6H), 7.38 (d, 2H, J=9.3 Hz), 7.10 (dd, 2H, J=6.7, 2.0 Hz), 6.90 (d, 1H, J=9.3 Hz), 6.01 (s, 2H), 5.32 (d, 1H, J=8.0 Hz), 4.63-4.52 (m, 1H), 3.78 (s, 2H), 3.76 (s, 3H), 2.95 (dd, 1H, J=15.7, 5.3 Hz), 2.85 (dd, 1H, J=15.7, 6.3 Hz), 1.47 (s, 9H).

reactant | 3-(4′-bromobiphenyl-4-ylmethylsulfanyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC(C(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)Br)NC(=O)OC(C)(C)C)=O | C22H26BrNO4S
reactant | 3,4-methylenedioxyphenylboronic acid | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | Na2CO3 | 0.4M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4′-Benzo[1,3]dioxol-5-yl-biphenyl-4-ylmethylsulfanyl)-2-tert-butoxycarbonyl amino-propionic acid methyl ester | COC(C(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC2=C(OCO2)C=C1)(C(=O)OC(C)(C)C)N)=O | C29H31NO6S
